US08133909B2
N-(1-Ethyl-3-methyl-1H-pyrazol-4-yl)-2-oxo-2-phenyl-N-[2-(6-trifluoromethyl-pyridin-3-yl)-ethyl]-acetamide
To a solution of (1-ethyl-3-methyl-1H-pyrazol-4-yl)-[2-(6-trifluoromethyl-pyridin-3-yl)-ethyl]-amine (100 mg) in CH2Cl2 (5 mL) was added under a nitrogen atmosphere at 0° C. benzoyl formic acid (1.1 eq., commercially available) and EDC (1.1 eq). After stirring for 12 h a rt, the mixture was washed with aqueous Na2CO3 (saturated, 2.5 mL) and water (2.5 mL), the combined aqueous layers were extracted with CH2Cl2 (3×2.5 mL) and the combined organic layers dried over sodium sulfate. Concentration afforded the title compound (161 mg, >100%) as a light yellow oil which was used without further purification for the next step. MS m/e: 431.2 [M+H]+.

reactant | (1-ethyl-3-methyl-1H-pyrazol-4-yl)-[2-(6-trifluoromethyl-pyridin-3-yl)-ethyl]-amine | 100 mg | C(C)N1N=C(C(=C1)NCCC=1C=NC(=CC1)C(F)(F)F)C | C14H17F3N4
reactant | benzoyl formic acid | C(C1=CC=CC=C1)(=O)C(=O)O | C8H6O3
reactant | EDC | 1.1 eq
solvent | CH2Cl2 | 5 mL | C(Cl)Cl | CH2Cl2
product | N-(1-Ethyl-3-methyl-1H-pyrazol-4-yl)-2-oxo-2-phenyl-N-[2-(6-trifluoromethyl-pyridin-3-yl)-ethyl]-acetamide | 161 mg, >100% | C(C)N1N=C(C(=C1)N(C(C(C1=CC=CC=C1)=O)=O)CCC=1C=NC(=CC1)C(F)(F)F)C | C22H21F3N4O2
